US04008273
A. 1-Pivaloyl-2-tert.-butylhydrazine
A solution of 40.8 g. (0.33 m.) of tert.-butylhydrazine hydrochloride in 300 ml. of distilled water was placed in a 500 ml. 4 neck, round bottom flask equipped with a high speed mechanical stirrer, a thermometer and a condenser, and cooled to 10° C. The solution was made basic by adding 24.3 g. (0.225 m.) of sodium carbonate and then 18.9 g. (0.15 m.) of pivaloyl chloride was added dropwise over 1 hour holding the temperature below 10° C. with an ice bath. The mixture was stirred for 3 hours and the white solid which formed was filtered off and dried. The product weight 16.5 g. after drying and had a melting range of 97°-105° C.

reactant | tert.-butylhydrazine hydrochloride | Cl.C(C)(C)(C)NN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | O | H2O
product | 1-Pivaloyl-2-tert.-butylhydrazine | C(C(C)(C)C)(=O)NNC(C)(C)C | C9H20N2O
